US07767677B2
Synthesis of 2-(6-piperazin-1-yl-pyridazin-3-yl)-1H-benzoimidazole
A mixture of 2-(6-chloropyridazin-3-yl)-1H-benzoimidazole (0.280 g, 2.040 mmol) and piperazine (0.516 g, 6.000 mmol) in 1-methyl-2-pyrrolidone (35 mL) was heated to 140° C. with stirring for 30 minutes. The solvent was evaporated in vacuo, the residue was diluted with water (100 mL) and stirred for 15 minutes. A white precipitate was formed which was collected by filtration and dried to afford the title compound.

reactant | 2-(6-chloropyridazin-3-yl)-1H-benzoimidazole | 2.040 mmol, 0.280 g | ClC1=CC=C(N=N1)C1=NC2=C(N1)C=CC=C2 | C11H7ClN4
reactant | piperazine | 6.000 mmol, 0.516 g | N1CCNCC1 | C4H10N2
solvent | 1-methyl-2-pyrrolidone | 35 mL | CN1C(CCC1)=O | C5H9NO
product | 2-(6-piperazin-1-yl-pyridazin-3-yl)-1H-benzoimidazole | N1(CCNCC1)C1=CC=C(N=N1)C1=NC2=C(N1)C=CC=C2 | C15H16N6
